US06166006
Under argon atmosphere, to a solution of 4-bromophenetole (26.4 g) in tetrahydrofuran (200 ml) was dropwise added n-butyl-lithium (1.6M, hexane solution) (90.3 ml) at -78° C. for 50 minutes, and the mixture was stirred for 30 minutes. To the reaction mixture was dropwise added a solution of trimethyl borate (40.8 g) in tetrahydrofuran (40 ml) for 30 minutes, and the mixture was stirred for 30 minutes, warmed to room temperature, and further stirred for 1.5 hours. To the reaction mixture was added 10% sulfuric acid (182 ml) for 40 minutes or more, and the mixture was stirred 1.5 hours, extracted with ethyl acetate, washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was crystallized from diisopropylether-hexane to give 4-ethoxyphenyl borate (15.5 g) as colorless crystals. Under argon atmosphere, a solution of ethyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate (504.5 mg), the above 4-ethoxyphenyl borate (310 mg) and potassium carbonate (0.47 g) in toluene-ethanol-water (20-2-2 ml) was stirred at room temperature for 1 hour. To the reaction mixture was added tetrakistriphenylphosphinepalladium (0.06 g), and the mixture was refluxed for 20 hours and cooled to room temperature. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:9-1:5) to give ethyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (468 mg) as colorless crystals.

reactant | ethyl 7-bromo-2,3-dihydro-1-benzoxepine-4-carboxylate | 504.5 mg | BrC=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C13H13BrO3
reactant | 4-ethoxyphenyl borate | 310 mg | B(OC1=CC=C(C=C1)OCC)([O-])[O-]
reactant | potassium carbonate | 0.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene-ethanol water | C=1(C(=CC=CC1)CCO)C.O
catalyst | tetrakistriphenylphosphinepalladium | 0.06 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 7-(4-ethoxyphenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 468 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OCC)C1 | C21H22O4
